US06476038B1
G. 7-Hydroxy-2,5-dimethyl-3-(4-chloro-2,6-dimethylphenyl)-pyrazolo[1,5-a]pyrimidine
Dissolve 5-amino-4-(4-chloro-2,6-dimethylphenyl)-3-methylpyrazole in 20 mL glacial acetic acid at ambient temperature, and add ethyl acetoacetate (2.0 mL, 1.99 g). Heat to reflux (130° C.) under N2 overnight. Evaporate down to concentrate and add 200 mL Et2O to precipitate out product. Stir at ambient temperature for 1 hour, then filter and wash the resulting white solid (1.25 g) with copious amounts of Et2O. LCMS=302.2 (MH+); 300.2 (M−).

reactant | 5-amino-4-(4-chloro-2,6-dimethylphenyl)-3-methylpyrazole | NC1=C(C(=NN1)C)C1=C(C=C(C=C1C)Cl)C | C12H14ClN3
reactant | ethyl acetoacetate | 2.0 mL, 1.99 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 7-Hydroxy-2,5-dimethyl-3-(4-chloro-2,6-dimethylphenyl)-pyrazolo[1,5-a]pyrimidine | OC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2C)Cl)C)C)C | C16H16ClN3O
